US07595315B2
2-(1,2-Diphenyl-ethyl)-morpholine (mixture of stereoisomers)
To a methanolic solution of 4-Benzyl-2-(1,2-diphenyl-vinyl)-morpholine (4.9 g, 13.9 mmol) is added ammonium formate (14 g, 222.2 mmol) and 10% Pd—C (5 g). The reaction is stirred under nitrogen and heated at reflux for 30 min then cooled to room temperature and filtered through Celite®. The filtrate is concentrated under reduced pressure and the residue is taken up in methanol and purified by cationic ion exchange resin SCX-2® chromatography. The purified residue (2.9 g, 80%) comprises a 3:1 ratio of diastereoisomers.

reactant | 4-Benzyl-2-(1,2-diphenyl-vinyl)-morpholine | 13.9 mmol, 4.9 g | C(C1=CC=CC=C1)N1CC(OCC1)C(=CC1=CC=CC=C1)C1=CC=CC=C1 | C25H25NO
reactant | ammonium formate | 222.2 mmol, 14 g | C(=O)[O-].[NH4+]
catalyst | Pd—C | 5 g | [Pd] | Pd
product | 2-(1,2-Diphenyl-ethyl)-morpholine | C1(=CC=CC=C1)C(CC1=CC=CC=C1)C1CNCCO1 | C18H21NO
